Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
colchicine / omeprazole
 
Attending: ___.
 
Chief Complaint:
Fat necrosis after distal pancreatectomy. Abdominal pain.
 
Major Surgical or Invasive Procedure:
___: Laparoscopic lysis of adhesions; drainage and removal 
of intra-abdominal fat necrosis. 

 
History of Present Illness:
As you know, I have been looking after ___
consistently and since he had his pancreatectomy in the fall.  
We
have been seeing him recently for left upper abdominal pain,
worse on eating.  He has organized fat necrosis very well imaged
on CT scanning.  This is most likely the cause of his discomfort
as it is a very focal location of pain and does not in any way
resemble the pain he had pre-pancreatic resection for segmental
pancreatitis.  He has been losing weight because he has
difficulty eating and he remains dependent on his oral narcotics
despite making serious efforts to dial that back.  He just 
simply
has been unable to.

Today on physical examination, he looks well overall and he is 
in
outstanding spirits.  He is not jaundiced.  He has left upper
quadrant abdominal tenderness on palpation, but the rest of his
abdomen is fine.  His extraction site incision from his
pancreatectomy as well as his trocar site incisions have all
healed beautifully.
 
Past Medical History:
Pre-diabetes, Mediterranean fever, Pancreatitis, GERD 
 
Social History:
___
Family History:
Family history of pancreatitis 
 
Physical Exam:
Gen: NAD, alert and oriented
HEENT: no scleral icterus, MMM
CV: RRR
Resp: unlabored respirations
Abd: lap sites c/d/I. Hyperesthesia noted. Mildly distended. No 
peritoneal signs. RLQ JP drain to bulb suction with minimal 
serous output, site with drain sponge and c/d/i
Extr: no pedal edema
 
Pertinent Results:
None
 
Brief Hospital Course:
The patient was admitted to the General Surgical Service for 
evaluation and treatment.  On ___ the patient underwent 
laparoscopic lysis of adhesions, drainage and removal of 
intra-abdominal fat necrosis, which went well without 
complication (reader referred to the Operative Note for 
details). After a brief, uneventful stay in the PACU, the 
patient arrived on the floor NPO, on IV fluids, and a dilaudid 
PCA for pain control.  The patient was hemodynamically stable.
 Neuro: The patient received dilaudid PCA with good effect and 
adequate pain control.  When tolerating oral intake, the patient 
was transitioned to oral pain medications including dilaudid, 
tylenol. He had poor pain control and was noted to have signs of 
hyperesthesia so the chronic pain service was consulted who had 
previously seen him as an outpatient. They recommended adding 
toradol and Lyrica which were both started with marginal 
benefit. He increased the frequency of dilaudid to 4mg every 3 
hours which improved his pain to some degree. He will be 
discharged with a prescription for dilaudid. He was extensively 
counseled on weaning off dilaudid and attempting to decrease the 
frequency of dosing. This was reinforced by the pain service. He 
was discharged on lyrica, dilaudid 4mg q3hrs recommended to 
space by 1 hour every few days, acetaminophen, and ibuprofen. He 
should follow up with the chronic pain clinic. 
 CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
 Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirrometry were 
encouraged throughout hospitalization.
 GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. Diet was advanced when appropriate, which was well 
tolerated. Patient failed void trial so a foley catheter was 
placed on the floor POD1. The foley was removed POD3 and he 
voided without difficulty. Patient's intake and output were 
closely monitored, and IV fluid was adjusted when necessary.  
Electrolytes were routinely followed, and repleted when 
necessary. He was given a bowel regimen. He was tolerating a 
regular diet on day of discharge and had passed gas and had a 
bowel movement. 
ID: He was afebrile without leukocytosis. He received 
perioperative antibiotics. 
Endocrine: The patient's blood sugar was monitored throughout 
his stay; insulin dosing was adjusted accordingly. He did not 
require significant insulin. He was continued on his metformin 
once tolerating oral diet. 
Hematology: The patient's complete blood count was within normal 
limits; no transfusions were required.
 Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay; was encouraged to get 
up and ambulate as early as possible.
 At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diabetic diet, ambulating, voiding without assistance, and pain 
was moderately well controlled. He had passed gas and had a 
bowel movement. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Proair INH', omeprazole 40', anakinra injection 100', lastacaft 
eye gtt', dilaudid PRN:[ain, metformin 1000', Tylenol PRN, 
zyrtec PRN
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
do not exceed more then 3000 mg/day   
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*60 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Pregabalin 75 mg PO BID 
RX *pregabalin [Lyrica] 75 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
6.  Senna 8.6 mg PO BID  
7.  HYDROmorphone (Dilaudid) 4 mg PO Q3H:PRN Pain - Moderate 
Take 4 mg Q3-4H for 3 days, then decrease to 4 mg Q4-6H until 
weaning off.  
RX *hydromorphone 4 mg 1 tablet(s) by mouth Q3-4H Disp #*82 
Tablet Refills:*0 
8.  anakinra 100 mg/0.67 mL subcutaneous DAILY 
please restart ___  
9.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY  
10.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Organized fat necrosis s/p distal pancreatectomy.
2. Chronic pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
 Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
 Avoid driving or operating heavy machinery while taking pain 
medications.
 Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
 Incision Care:
 *Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
 *Avoid swimming and baths until your follow-up appointment.
 *You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
 *If you have staples, they will be removed at your follow-up 
appointment.
 *If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
.
 JP Drain Care:
 *Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
 *Maintain suction of the bulb.
 *Note color, consistency, and amount of fluid in the drain.  
Call the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
 *Be sure to empty the drain frequently.  Record the output, if 
instructed to do so.
 *You may shower; wash the area gently with warm, soapy water.
 *Keep the insertion site clean and dry otherwise.
 *Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
 *Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
 
Followup Instructions:
___